US07125904B2
2-[3-(2,2-Dimethyl[1,3]dioxolan-4-yl)propyl]isoindole-1,3-dione
To a stirred solution of 3-(2,2-dimethyl-[1,3]dioxolan-4-yl)propylamine (1.05 g, 6.60 mmol) and carboethoxyphthalimide (1.45 g, 6.60 mmol) in acetonitrile (10 mL) at room temperature was added triethylamine (0.92 mL, 6.60 mmol) in one portion and the resuting mixture was stirred at room temperature for 18 hours, evaporated in vacuo and the residue was dissolved in ethyl acetate (50 mL). The solution was washed with brine, 10% citric acid solution and brine, then dried over anhydrous magnesium sulfate. Filtration and concentration in vacuo gave an oil which was purified by column chromatography on silica using ethyl acetate-petroleum ether mixture as eluent to afford a colourless oil.

reactant | 3-(2,2-dimethyl-[1,3]dioxolan-4-yl)propylamine | 6.60 mmol, 1.05 g | CC1(OCC(O1)CCCN)C | C8H17NO2
reactant | carboethoxyphthalimide | 6.60 mmol, 1.45 g | C(=O)(OCC)C1=C2C(C(=O)NC2=O)=CC=C1 | C11H9NO4
reactant | triethylamine | 6.60 mmol, 0.92 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-[3-(2,2-Dimethyl[1,3]dioxolan-4-yl)propyl]isoindole-1,3-dione | CC1(OCC(O1)CCCN1C(C2=CC=CC=C2C1=O)=O)C | C16H19NO4
